US05736539
1-tert-Butoxycarbonyl-2(S)-(2-hydroxy-ethyl)-4-naphthoylpiperazine
To a solution of 1-tert-butoxycarbonyl-2(S)-(2-hydroxyethyl)piperazine (0.479 g, 2.08 mmol) in DMF was added EDC.HCl (0.432 g, 2.25 mmol), HOBT (0.314 g, 2.05 mmol) and naphthalene-2-carboxylic acid (0.353 g, 2.05 mmol). Triethylamine was added to pH 7. The reaction was stirred overnight at room temperature. The DMF was removed in vacuo and the residue dissolved in 1:1 methanol-tetrahydrofuran and 5% sodium hydroxide added. The reaction was stirred several hours, the solvent evaporated and the residue partitioned between ethyl acetate and 5% sodium hydroxide. The organic phase was dried over magnesium sulfate and the crude product thus obtained chromatoraphed on silica gel with 50% ethyl acetate in hexane. The title compound was obtained as a white foam.

reactant | 1-tert-butoxycarbonyl-2(S)-(2-hydroxyethyl)piperazine | 2.08 mmol, 0.479 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCO | C11H22N2O3
reactant | EDC.HCl | 2.25 mmol, 0.432 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 2.05 mmol, 0.314 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | naphthalene-2-carboxylic acid | 2.05 mmol, 0.353 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | 1-tert-Butoxycarbonyl-2(S)-(2-hydroxy-ethyl)-4-naphthoylpiperazine | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCO | C22H28N2O4
